US04194044
A 0.4 g (0.001 mole) sample of the (±)-1-(p-phenoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline oxalate was suspended in water and the suspension was basified with conc. aqueous ammonium hydroxide. The aqueous suspension was extracted with diethyl ether (2×20 ml), and the ether solution was washed with water and dried (MgSO4). Removal of the solvent gave 0.3 g (97%) of (±)-1-(p-phenoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline. For analysis, a sample of this compound was distilled, bp 185°-195°. (0.1 mm Hg).

reactant | (±)-1-(p-phenoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline oxalate | C(C(=O)O)(=O)O.O(C1=CC=CC=C1)C1=CC=C(CC2NCCC=3CCCCC23)C=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | (±)-1-(p-phenoxybenzyl)-1,2,3,4,5,6,7,8-octahydroisoquinoline | 0.3 g, 97% | O(C1=CC=CC=C1)C1=CC=C(CC2NCCC=3CCCCC23)C=C1 | C22H25NO
